US05185339
A mixture of methyl 6-benzyl-2-picoline imidate (0.81 g, 0.0036 moles) and ammonium chloride (0.21 g, 0.0039 moles) in ethanol (9 ml) was refluxed for 5 hours. The ethanol was removed in vacuo to give 6-benzyl-2-picoline amidine hydrochloride which was used in the final stage without further purification.

reactant | methyl 6-benzyl-2-picoline imidate | 0.0036 moles, 0.81 g | C(C1=CC=CC=C1)C1=CC=CC(=N1)C(OC)=N | C14H14N2O
reactant | ammonium chloride | 0.0039 moles, 0.21 g | [Cl-].[NH4+]
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 6-benzyl-2-picoline amidine hydrochloride | Cl.C(C1=CC=CC=C1)C1=CC=CC(=N1)C(=N)N | InChI=1S/C13H13N3.ClH/c14-13(15)12-8-4-7-11(16-12)9-10-5-2-1-3-6-10;/h1-8H,9H2,(H3,14,15);1H
